US06420409B1
A mixture of N-t-butyl-4-benzoyloxy-1-pentanesulfonamide (15.0 g) and trifluoroacetic acid (70 ml) was stirred overnight at room temperature. The reaction solution was concentrated under reduced pressure. Water and chloroform were added to the residue. Then, a saturated aqueous solution of sodium hydrogencarbonate was added thereto while stirring to adjust the pH of the aqueous to neutral. The chloroform layer was dried over sodium sulfate and concentrated. The resulting residue was purified by silica gel column chromatography (eluate: ethyl acetate) to obtain 4-benzoyloxy-1-pentanesulfonamide (11.1 g).

reactant | N-t-butyl-4-benzoyloxy-1-pentanesulfonamide | 15.0 g | C(C)(C)(C)NS(=O)(=O)CCCC(C)OC(C1=CC=CC=C1)=O | C16H25NO4S
solvent | trifluoroacetic acid | 70 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-benzoyloxy-1-pentanesulfonamide | 11.1 g | C(C1=CC=CC=C1)(=O)OC(CCCS(=O)(=O)N)C | C12H17NO4S
